2109-08-16 06:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2109-8-15**] 09:17 PM
 BLOOD CULTURED - At [**2109-8-15**] 11:15 PM
 NASAL SWAB - At [**2109-8-15**] 11:40 PM
 BLOOD CULTURED - At [**2109-8-15**] 11:40 PM
 URINE CULTURE - At [**2109-8-15**] 11:41 PM
 FEVER - 103.0
F - [**2109-8-15**] 09:00 PM
   - Fever to 103.0, given tylenol, pt defervesced later
   - vanc and levofloxacin added to the abx regimen, in addition to
   voriconazole and aztreonam
   - SBP low, in the low 90s, given his insensible loss gave pt 250cc NS
   bolus
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 2,200 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-8-16**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 36.7
C (98
   HR: 95 (95 - 135) bpm
   BP: 98/65(72) {95/55(65) - 122/88(91)} mmHg
   RR: 13 (13 - 33) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,202 mL
                                                                    415 mL
   PO:
             TF:
   IVF:
                                                                     38 mL
                                                                    415 mL
   Blood products:
   Total out:
                                                                  2,290 mL
                                                                    100 mL
   Urine:
                                                                    230 mL
                                                                    100 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                    912 mL
                                                                    315 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: 7.43/37/81.[**Numeric Identifier 252**]/22/0, 7.39/42/166/26
   PaO2 / FiO2: 116
   Physical Examination
   General: alert, oriented, ruddy complexion
   HEENT- NC/AT, EOMI, PERRL, dry mucous membranes, no scleral icterus,
   peeling skin of face
   Neck: supple, JVP difficult to determine, intermittent accessory muscle
   use
   Cardiac: regular rhythm, normal rate, S1 + S2, , no rubs, PMI
   non-displaced,  2+ carotid, radial, DP/PT pulses
   Pulmonary: bronchial sounds in the left lung fields, good airway entry.
   Occasional crackles in both lung fields
   Abdomen: +BS, no rebound or guarding, no organomegaly,
   Skin: Peeling skin over trunk with slightly violet-red appearance, PICC
   line in place, site c/d/i
   Extremities: DP/PT 2+ bilaterally. Right ankle tenderness on passive
   movement, 1+ edema on right forefoot, the little toe has some overlying
   redness, right forefoot felt slightly warmer than the left
   Neurologic: No focal deficits, CN II-XII grossly intact
   Labs / Radiology
   381 K/uL
   8.4 g/dL
   112 mg/dL
   1.3 mg/dL
   22 mEq/L
   4.5 mEq/L
   18 mg/dL
   107 mEq/L
   139 mEq/L
   24.0 %
   3.1 K/uL
        [image002.jpg]
                             [**2109-8-15**]  10:14 PM
                             [**2109-8-15**]  10:44 PM
                             [**2109-8-16**]  04:52 AM
   WBC
   4.5
   3.1
   Hct
   25.1
   28
   24.0
   Plt
   396
   381
   Cr
   1.0
   1.3
   TCO2
   25
   Glucose
   [**Telephone/Fax (3) 8803**]
   Other labs:
   PT / PTT / INR:15.6/92.8/1.4,
   ALT / AST:45/66, Alk Phos / T Bili:258/0.4,
   Differential-Neuts:75.0 %, Band:0.0 %, Lymph:12.0 %, Mono:2.0 %,
   Eos:0.0 %,
   Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:262 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:4.2 mg/dL
   Micro:
   Blood culture from [**Date range (1) 8804**]: pending
   Urine culture from [**8-15**]: pending
GRAM STAIN (Final [**2109-8-14**]):
      >25 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI IN CLUSTERS.
   RESPIRATORY CULTURE (Preliminary):
      MODERATE GROWTH OROPHARYNGEAL FLORA.
Norovirus, EIA (Stool)             POSITIVE
   Imaging: CXR from this AM (my read):  lung fields infiltrate
   significantly improved compared to yesterday
   Assessment and Plan
   Mr. [**Known lastname 8799**] is a 57 year old male with newly diagnosed APML
   status-post 7+4 and currently on ATRA therapy, who is transfered to the
   [**Hospital Unit Name 4**] for respiratory distress.
   .
   #) Hypoxic respiratory failure:
   Patient with a number of factors likely contributing. He has known
   bilateral pulmonary emboli, and has been on a heparin drip for this.
   Although this was stopped for one hour today, it seems unlikely this
   fully accounts for his decompensation; it will, however, contribute to
   his much reduced capacity to handle other problems. His chest x-ray
   demonstrates worsening left-sided process, which would be more
   consistent with possible infectious etiology, especially given long
   period of neutropenia and cough and concurrent fever at time of
   transfer; it is possible that as counts recover, he may be mounting
   more of an immune response to underlying pulmonary infectious process.
   Pulmonary hemorrhage is another consideration, though this seems less
   likely given no hemoptysis and normal platelet count. ATRA syndrome is
   another possiblity, though less likely to produce such uni-lateral
   findings. PCP has also been discussed. Patient is doing well, now
   satting well on 2L NC
   - Repeat ABG this morning to assess oxygenation, pH, lactate, and CO2
   - Titrate down oxygen as/if tolerated
   - Continue voriconazole, vancomycin, aztreonam and levofloxacin
   - Continue heparin drip for PE
   - Sputum culture
   - Will not bronch at this point  as the infections are likely bacterial
   - f/u ID recs
   .
   #) Fevers: Patient has had ongoing fevers during his stay. Differential
   has included secondary to medications, occult infection (culture data
   has all been negative to date aside from Norovirus), ATRA syndrome. At
   time of transfer, noted to have fever to 103. Less likely to be due to
   PE unless pt has pulmonary necrosis, as pt has no pleuritic chest pain
   associated with pulmonary necrosis.
   - Cultures pending, continue to follow up
   - Continue voriconazole, vancomycin, aztreonam and levofloxacin
   - Appreciate ID continued recommendations
   - Follow up aspergillus and beta-glucan which are pending.
   .
   #) Tachycadia: Likely secondary to infection, PE, fevers.
   - continue antibiotics as above
   - continue heparin gtt
   - f/u cultures
   - control fever with tylenol
   .
   #) Right ankle joint pain and forefoot swelling and warmth:
   Differential include cellulitis, septic arthritis, gout and DVT.
   - LENI
s to rule out DVT
   - f/u blood culture
   - obtain x-ray of the right foot
   - continue abx as above
   .
   #) PE: As discussed above. Given mild calf pain, must ensure no DVT
   that could further compromise respiratory function.
   - Continue IV heparin as discussed above
   - Obtain LENI's to rule out DVT
   .
   #) Acute renal failure: Cr bumped up from 1.0 to 1.3. Pt was very
   sweaty and feverish, and had lots of insensible loss
   - IVF today
   - continue to monitor
   .
   #) Anemia: Recent baseline appears to be in mid-20's (21-23). Currently
   25 which may represent recovering cell lines versus hemo-concentration.
   - Continue to follow trend
   - DIC labs unremarkable, will continue to follow at least daily, more
   often if clinical suspicion for bleeding arises
   - Guaiac stools
   .
   #) Leukopenia:
   - Continuing to monitor
   .
   #) APML: Status-post 7+4 and ATRA, which was increased to 50 mg
   yesterday ([**2109-8-14**]). He is status-post bone marrow biopsy today which
   was suggestive of remission.
   - Follow up final pathology report
   - Continue ATRA per oncology after further discussion
   - f/u BMT recs
   .
   #) Intracranial hemorrhage: Stable on last imaging. No CNS changes at
   present. Continuing heparin at present given pulmonary emboli, low
   threshold to re-image head.
   .
   #) Nausea, emesis: Patient reports that this has been in intermittent
   complaint. Norovirus was positive earlier in stay.
   - Checking c. difficile should he have any dirrhea/stool
   - Anti-emetics PRN
   ICU Care
   Nutrition: start  neutropenic diet
   Glycemic Control: Insulin sliding scale if needed
   Lines:
   PICC Line - [**2109-8-15**] 09:17 PM
   Prophylaxis:
   DVT: Heparin IV for PE
   Stress ulcer: On PPI
   VAP:  N/A
   Comments:
   Communication:  Wife: [**Doctor First Name 8206**] [**Telephone/Fax (1) 8207**] (C)/ [**Telephone/Fax (1) 8208**] (H)
   Code status: Full code
   Disposition: ICU, once respiratory status improves and stable, can
   transfer back to BMT for further workup of other problems

2109-08-16 10:10:00 Physician Attending Progress Note
Chief Complaint: Acute on chronic respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   APML, diffuse alveolar hemorrhage in setting of chemoRx and low
   platelets, bilateral pulmonary emboli on IV heparin
   24 Hour Events:
 PICC LINE - START [**2109-8-15**] 09:17 PM
 BLOOD CULTURED - At [**2109-8-15**] 11:15 PM
 NASAL SWAB - At [**2109-8-15**] 11:40 PM
 BLOOD CULTURED - At [**2109-8-15**] 11:40 PM
 URINE CULTURE - At [**2109-8-15**] 11:41 PM
 FEVER - 103.0
F - [**2109-8-15**] 09:00 PM
   T - 103.8, tachycardic, tachypneic, borderline saturations on 100%
   NRB.  Received tylenol.
   SBP in low 90's, given 250 cc NS bolus with improvement.
   Antibiotics broadened to include levofloxicin.
   Episode of greenish hematemesis in the ICU overnight x 1; no witnessed
   aspiration (resident in the room)
   History obtained from Patient
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2109-8-16**] 08:16 AM
   Infusions:
   Heparin Sodium - 2,200 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-8-16**] 10:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 36
C (96.8
   HR: 108 (89 - 135) bpm
   BP: 105/70(79) {95/55(65) - 122/88(91)} mmHg
   RR: 20 (13 - 33) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,202 mL
                                                                  1,092 mL
   PO:
             240 mL
   TF:
   IVF:
                                                                     38 mL
                                                                    852 mL
   Blood products:
   Total out:
                                                                  2,290 mL
                                                                    100 mL
   Urine:
                                                                    230 mL
                                                                    100 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                    912 mL
                                                                    992 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.39/42/166/22/0
   PaO2 / FiO2: 237
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : left base, Wheezes :
   occasional )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, no cords palpable
   Skin:  Warm, Rash: redness over medial ankle, warmth, pain with
   palpation and passive ROM; swelling over dorsal surface of right foot;
   no palpable crepitus
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   381 K/uL
   112 mg/dL
   1.3 mg/dL
   22 mEq/L
   4.5 mEq/L
   18 mg/dL
   107 mEq/L
   139 mEq/L
   24.0 %
   3.1 K/uL
        [image002.jpg]
                             [**2109-8-15**]  10:14 PM
                             [**2109-8-15**]  10:44 PM
                             [**2109-8-16**]  04:52 AM
                             [**2109-8-16**]  07:29 AM
   WBC
   4.5
   3.1
   Hct
   25.1
   28
   24.0
   Plt
   396
   381
   Cr
   1.0
   1.3
   TCO2
   25
   26
   Glucose
   [**Telephone/Fax (3) 8803**]
   Other labs: PT / PTT / INR:15.6/92.8/1.4, ALT / AST:45/66, Alk Phos / T
   Bili:258/0.4, Differential-Neuts:75.0 %, Band:0.0 %, Lymph:12.0 %,
   Mono:2.0 %, Eos:0.0 %, Lactic Acid:0.5 mmol/L, Albumin:3.0 g/dL,
   LDH:262 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:4.2 mg/dL
   Microbiology: Blood cultures [**8-10**] - [**8-15**]:  NGTD
   Sputum [**8-14**]: 1+ GPC clusters; moderate OPF
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 LEUKEMIA, ACUTE (APML, ALL, AML, CANCER, MALIGNANT NEOPLASM):
 HYPOXIC RESPIRATORY FAILURE, ACUTE ON CHRONIC (NOT ARDS/[**Doctor Last Name 76**]):  As
   counts coming back may blossom increased pulmonary infiltrates.  Agree
   with broad bacterial  and fungal coverage given underlying leukemia and
   prolonged neutropenia.  Decreased oxygen requirements overnight, now on
   2 L NC.  Repeat GS, C & S, patient is able to expectorate.  Followup on
   blood and urine cultures.

 FEVER:  Likely secondary to pulmonary source as discussed above.
   Also has erythema/warmth over right medial ankle with pain on passive
   ROM.  While this may be related to cellulitis which should be covered
   with current abx, or noninfectious etiology (e.g., gout), also
   concerned for septic joint. No documented positive blood culutres over
   course.  Repeat culutres sent.  Foot/ankle films.
 PE/ DVT:  Pain in LE, concern for extending clot on heparin.
   Therapeutic PTT.  LENIs today.
 ACUTE RENAL FAILURE:  Given emesis, poor po  intake, likely secondary
   to relative intravascular depletion and prerenal state.  Tachycardic.
   Relative hypotensive overnight, responsive to IVF.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2109-8-15**] 09:17 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2109-08-17 07:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - LENI: no DVT, small fluid in R medial ankle
   - BMT recs:
   - GI recs:
   - ID recs: for fever w/u, check Lyme and anaplasma; continue
   Levofloxacin, Aztreonam and Vori; slow Vanc infusion and give
   antihistamine and APAP as needed; be vigilent for hives or sx of type I
   hypersensitivity rxn
   - X ray of R foot: without evidence of fracture, effusion, or
   significant soft tissue abnormality. Minimal degenerative
   changes seen at the talonavicular and intertarsal joints.
   - Rheum came and tapped ankle -> gram stain, crystals, cx sent
   - spiked fever to 101.2 -> gave Tylenol, blood cx sent
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2109-8-16**] 08:00 PM
   Voriconazole - [**2109-8-16**] 08:00 PM
   Aztreonam - [**2109-8-16**] 11:51 PM
   Infusions:
   Heparin Sodium - 2,100 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-8-17**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.9
C (100.3
   HR: 115 (89 - 128) bpm
   BP: 93/55(65) {93/54(65) - 131/95(101)} mmHg
   RR: 22 (14 - 31) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,147 mL
                                                                    721 mL
   PO:
                                                                    240 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  1,907 mL
                                                                    241 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    300 mL
   Urine:
                                                                    850 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,297 mL
                                                                    421 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 5L
   SpO2: 91%
   ABG: ///23/
   Physical Examination
   General: alert, oriented, uses accessory muscles to breathe
   Cardiac: RRR, S1 + S2, , murmurs no rubs
   Pulmonary: bronchial sounds in the left lung fields, good airway entry.
   Occasional crackles in both lung fields
   Abdomen: +BS, no rebound or guarding, no organomegaly,
   Extremities: Right ankle tenderness on passive movement, 1+ edema on
   right forefoot, right forefoot felt slightly warmer than the left
   Labs / Radiology
   334 K/uL
   7.9 g/dL
   99 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.3 mEq/L
   19 mg/dL
   101 mEq/L
   133 mEq/L
   23.5 %
   2.1 K/uL
        [image002.jpg]
                             [**2109-8-15**]  10:14 PM
                             [**2109-8-15**]  10:44 PM
                             [**2109-8-16**]  04:52 AM
                             [**2109-8-16**]  07:29 AM
                             [**2109-8-17**]  05:03 AM
   WBC
   4.5
   3.1
   2.1
   Hct
   25.1
   28
   24.0
   23.5
   Plt
   396
   381
   334
   Cr
   1.0
   1.3
   1.1
   TCO2
   25
   26
   Glucose
   [**Telephone/Fax (3) 8830**]9
   Other labs:
   Gran-Ct: 1420
   PT / PTT / INR:14.5/65.6/1.3
   ALT / AST:41/42, Alk Phos / T Bili:217/0.3
   Lactic Acid:0.5 mmol/L
   Albumin:3.0 g/dL
   LDH:288 IU/L
   Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
                                                                     6:40p
   _______________________________________________________________________
   Source: ankle
     Joint Fluid
                                      WBC
                                     239
                                      RBC
                                   [**Numeric Identifier 8831**]
                                     Poly
                                     98
                                     Lymph
                                      1
                                     Mono
                                      0
                                      EOs
   Basos: 1
   Crystal: None
[**2109-8-16**] 6:40 pm JOINT FLUID      Source: ankle.
GRAM STAIN (Final [**2109-8-16**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      NO MICROORGANISMS SEEN.
CULTURE PND
SPUTUM samples: contaminated except
[**2109-8-14**] SPUTUM
GRAM STAIN (Final [**2109-8-14**]):
      >25 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI IN CLUSTERS.
Lyme serology PND
Blood and urine cx neg
LENIs:
   IMPRESSION: No evidence of DVT bilaterally. Small amount of fluid in
   the
   right medial ankle joint.
X ray of R ankle:
   FINDINGS: A frontal and lateral view (note that no mortise view was
   performed) of the right ankle were performed, without evidence of
   fracture,
   effusion, or significant soft tissue abnormality. Minimal degenerative
   changes seen at the talonavicular and intertarsal joints.
   Assessment and Plan
   Mr. [**Known lastname 8799**] is a 57 year old male with newly diagnosed APML
   status-post 7+4 and currently on ATRA therapy, who is transfered to the
   [**Hospital Unit Name 4**] for respiratory distress.
   .
   #) Hypoxic respiratory failure:
   Patient with a number of factors likely contributing. He has known
   bilateral pulmonary emboli, and has been on a heparin drip for this.
   Although this was stopped for one hour today, it seems unlikely this
   fully accounts for his decompensation; it will, however, contribute to
   his much reduced capacity to handle other problems. His chest x-ray
   demonstrates worsening left-sided process, which would be more
   consistent with possible infectious etiology, especially given long
   period of neutropenia and cough and concurrent fever at time of
   transfer; it is possible that as counts recover, he may be mounting
   more of an immune response to underlying pulmonary infectious process.
   Pulmonary hemorrhage is another consideration, though this seems less
   likely given no hemoptysis and normal platelet count. ATRA syndrome is
   another possiblity, though less likely to produce such uni-lateral
   findings. PCP has also been discussed. Patient is doing well, now
   satting well on 2L NC
   - Repeat ABG this morning to assess oxygenation, pH, lactate, and CO2
   - Titrate down oxygen as/if tolerated
   - Continue voriconazole, vancomycin, aztreonam and levofloxacin
   - Continue heparin drip for PE
   - Sputum culture
   - Will not bronch at this point  as the infections are likely bacterial
   - f/u ID recs
   .
   #) Fevers: Patient has had ongoing fevers during his stay. Differential
   has included secondary to medications, occult infection (culture data
   has all been negative to date aside from Norovirus), ATRA syndrome. At
   time of transfer, noted to have fever to 103. Less likely to be due to
   PE unless pt has pulmonary necrosis, as pt has no pleuritic chest pain
   associated with pulmonary necrosis.
   - Cultures pending, continue to follow up
   - Continue voriconazole, vancomycin, aztreonam and levofloxacin
   - Appreciate ID continued recommendations
   - Follow up aspergillus and beta-glucan which are pending.
   .
   #) Tachycadia: Likely secondary to infection, PE, fevers.
   - continue antibiotics as above
   - continue heparin gtt
   - f/u cultures
   - control fever with tylenol
   .
   #) Right ankle joint pain and forefoot swelling and warmth:
   Differential include cellulitis, septic arthritis, gout and DVT.
   - LENI
s to rule out DVT
   - f/u blood culture
   - obtain x-ray of the right foot
   - continue abx as above
   .
   #) PE: As discussed above. Given mild calf pain, must ensure no DVT
   that could further compromise respiratory function.
   - Continue IV heparin as discussed above
   - Obtain LENI's to rule out DVT
   .
   #) Acute renal failure: Cr bumped up from 1.0 to 1.3. Pt was very
   sweaty and feverish, and had lots of insensible loss
   - IVF today
   - continue to monitor
   .
   #) Anemia: Recent baseline appears to be in mid-20's (21-23). Currently
   25 which may represent recovering cell lines versus hemo-concentration.
   - Continue to follow trend
   - DIC labs unremarkable, will continue to follow at least daily, more
   often if clinical suspicion for bleeding arises
   - Guaiac stools
   .
   #) Leukopenia:
   - Continuing to monitor
   .
   #) APML: Status-post 7+4 and ATRA, which was increased to 50 mg
   yesterday ([**2109-8-14**]). He is status-post bone marrow biopsy today which
   was suggestive of remission.
   - Follow up final pathology report
   - Continue ATRA per oncology after further discussion
   - f/u BMT recs
   .
   #) Intracranial hemorrhage: Stable on last imaging. No CNS changes at
   present. Continuing heparin at present given pulmonary emboli, low
   threshold to re-image head.
   .
   #) Nausea, emesis: Patient reports that this has been in intermittent
   complaint. Norovirus was positive earlier in stay.
   - Checking c. difficile should he have any dirrhea/stool
   - Anti-emetics PRN
   ICU Care
   Nutrition: neutropenic diet
   Glycemic Control:
   Lines:
   PICC Line - [**2109-8-15**] 09:17 PM
   Prophylaxis:
   DVT: Heparin IV for PE
   Stress ulcer: On PPI
   VAP:  N/A
   Comments:
   Communication:  Wife: [**Doctor First Name 8206**] [**Telephone/Fax (1) 8207**] (C)/ [**Telephone/Fax (1) 8208**] (H)
   Code status: Full code
   Disposition: ICU, once respiratory status improves and stable, can
   transfer back to BMT for further workup of other problems

2109-08-17 09:39:00 Physician Attending Progress Note
Chief Complaint: Respiratory Distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2109-8-16**] 11:06 AM
 BLOOD CULTURED - At [**2109-8-16**] 07:51 PM
 FEVER - 101.2
F - [**2109-8-16**] 04:00 PM
 CALLED OUT
   -LENI-no DVT, small fluid collection in right medial ankle joint
   region--rheum consulted and tap performed
   -fever to 101.2 continued
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2109-8-16**] 08:00 PM
   Voriconazole - [**2109-8-16**] 08:00 PM
   Aztreonam - [**2109-8-16**] 11:51 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: Tachypnea, transient
   Pain: [**2-6**] Mild
   Flowsheet Data as of  [**2109-8-17**] 09:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.9
C (100.3
   HR: 115 (89 - 128) bpm
   BP: 93/55(65) {93/54(65) - 131/95(101)} mmHg
   RR: 22 (14 - 31) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,147 mL
                                                                    758 mL
   PO:
                                                                    240 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  1,907 mL
                                                                    278 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    300 mL
   Urine:
                                                                    850 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,297 mL
                                                                    458 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///23/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant :
   )
Clear bronchial breath sounds left side
crackes at apex--mild
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: Absent, mild pain in movement of right ankle
   Skin:  Not assessed, MIld flushing--diffuse erythema
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   334 K/uL
   99 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.3 mEq/L
   19 mg/dL
   101 mEq/L
   133 mEq/L
   23.5 %
   2.1 K/uL
        [image002.jpg]
                             [**2109-8-15**]  10:14 PM
                             [**2109-8-15**]  10:44 PM
                             [**2109-8-16**]  04:52 AM
                             [**2109-8-16**]  07:29 AM
                             [**2109-8-17**]  05:03 AM
   WBC
   4.5
   3.1
   2.1
   Hct
   25.1
   28
   24.0
   23.5
   Plt
   396
   381
   334
   Cr
   1.0
   1.3
   1.1
   TCO2
   25
   26
   Glucose
   [**Telephone/Fax (3) 8830**]9
   Other labs: PT / PTT / INR:14.5/65.6/1.3, ALT / AST:41/42, Alk Phos / T
   Bili:217/0.3, Differential-Neuts:75.0 %, Band:0.0 %, Lymph:12.0 %,
   Mono:2.0 %, Eos:0.0 %, Lactic Acid:0.5 mmol/L, Albumin:3.0 g/dL,
   LDH:288 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Fluid analysis / Other labs: Joint-
   239 WBC
   Elevated RBC
   no crystals
   no organisms
   Imaging: CXR--mild lordotic film with rotation to left.  He has shown
   some clearing of diffuse opacities in left lung, right lung remains
   reasonably preserved.  Still, though with persistent infiltrate in left
   lung with mild volume loss and suggesting consolidation.
   Microbiology: Fluid culture-Pending
   Cultures--
   negative to date (Blood, Sputum, Urine0
   Assessment and Plan
   57 yo male with h/o APML now following chemotherapy has ICU admission
   for respiratory distress.  This has been improved across time with
   antibiotics continued.  Interestingly warm right ankle with fluid now
   tapped and results pending in regards to culture but WBC minimally
   elevated.  He does have one culture with GPC's suggested but limited
   growth.  Additionally [**Location (un) **] virus was positive.  Finally, his
   hospital course was complicated by alveolar hemorrhage and PE.
   1)Respiratory Distress-What we see is clear involvement of left lung
   with multi-focal areas of consolidation on CXR with some improvement of
   areas that appear to be more dominated by edema.  On CXR we see
   persistence with is supported by physical exam.  PE treatment continues
   and no sudden acute symptoms to suggest recurrence.  Will have to
   clarify potential role of chemotherapy. Current diagnosis is multifocal
   pneumonia
   -He maintaines high RR and easy distress with minimal movement leaving
   patient with need for close monitoring
   -If stability seen then will consider bronchoscopy as is high risk at
   this time
   -Will continue to consider possible BOOP from medications given and
   will need to review possible complications in detail
   -Levo/Vanco/Aztreonam/Voriconazole/Nystatin Oral
   -Primary involvement in lung from malignancy
have curious result from
   sputum sample with squamous cell seen ([**2109-8-14**])
will need to evaluate
   for old CXR
s and consider repeat sample if bronchoscopy pursued.
   Important to note is patient did have CXR on [**2109-7-15**] making primary
   lung malignancy with SCCA very very unlikely.
   2)Fever
   -Joint sampling shows blood
likely related to anticoagulation and
   trauma.
   -Will continue to treat pneumonia
   3)APML-
   -Continue to follow WBC counts
   -Continue with Rx per oncology team
 IMPAIRED SKIN INTEGRITY
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   PICC Line - [**2109-8-15**] 09:17 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2109-08-18 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - c/o this AM, but per BMT, there were no beds available and they
   wanted patient to stay additional day
   - BMT recs: patient with new focal pleuritic pain suggestive of a
   potential fungal etiology.  Obtain CT chest without contrast to
   evaluate for possible fungal infxn.  Continue current abx/antifungal
   meds.  Continue atra.  Will follow up.
   - f/u ankle tap: WBC: 239, RBC: [**Numeric Identifier 8831**], polys: 98, lymphs: 1, Monos:
   0, Basos: 1.  No crystals.
   - f/u ID recs: continue vanc, levo, aztreonam, voriconazole.  Check
   vanco trough in AM.  Send sputum culture to narrow abx, as he is no
   longer neutropenic.
   - f/u rheum recs: no new recs.
   - f/u sputum culture (ordered)
   - got CT chest
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2109-8-17**] 08:00 PM
   Voriconazole - [**2109-8-17**] 08:00 PM
   Aztreonam - [**2109-8-17**] 11:54 PM
   Infusions:
   Heparin Sodium - 2,100 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-8-17**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-8-18**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.9
C (100.2
   HR: 98 (94 - 125) bpm
   BP: 103/69(78) {57/38(42) - 124/79(88)} mmHg
   RR: 23 (16 - 26) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,989 mL
                                                                    229 mL
   PO:
                                                                  2,640 mL
             TF:
   IVF:
                                                                  1,349 mL
                                                                    229 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                    200 mL
   Urine:
                                                                  1,300 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,689 mL
                                                                     29 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 5L
   SpO2: 93%
   ABG: ///23/
   Physical Examination
   General: alert, oriented, uses accessory muscles to breathe
   Cardiac: RRR, S1 + S2, , murmurs no rubs
   Pulmonary: bronchial sounds in the left lung fields, good airway entry.
   Occasional crackles in both lung fields
   Abdomen: +BS, no rebound or guarding, no organomegaly,
   Extremities: Right ankle tenderness on passive movement, 1+ edema on
   right forefoot, right forefoot felt warmer than the left
   Labs / Radiology
   289 K/uL
   7.8 g/dL
   104 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.2 mEq/L
   17 mg/dL
   102 mEq/L
   134 mEq/L
   22.4 %
   2.2 K/uL
        [image002.jpg]
                             [**2109-8-15**]  10:14 PM
                             [**2109-8-15**]  10:44 PM
                             [**2109-8-16**]  04:52 AM
                             [**2109-8-16**]  07:29 AM
                             [**2109-8-17**]  05:03 AM
                             [**2109-8-18**]  03:55 AM
   WBC
   4.5
   3.1
   2.1
   2.2
   Hct
   25.1
   28
   24.0
   23.5
   22.4
   Plt
   396
   381
   334
   289
   Cr
   1.0
   1.3
   1.1
   1.1
   TCO2
   25
   26
   Glucose
   [**Telephone/Fax (3) 8830**]9
   104
   Other labs:
   PT / PTT / INR:14.3/59.7/1.2,
   Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Vanco: 12.2
   Micro:
Sputum culutre ([**8-17**]): GRAM STAIN (Final [**2109-8-17**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS.
   No acid-fast. No legionella. Culture pending.
   Blood culture from [**Date range (1) 8855**]: pending, NGTD
   Ankle tap culture: neg
   Imaging: CXR from today (my read): L lung field opacities / patchy
   consolidation, consistent with pulmonary infectious etiology. No
   significant difference compared to the one from [**8-17**]
   CT chest ([**8-17**]):
   Interval worsening of bilateral consolidative and ground-glass
   opacities, now worse in the anterior segment of the left upper lobe,
   and the
   left lower lobe. Densities in the right upper lobe are also progressed.
   There are no cavitating lesions identified. These findings are most
   consistent with progressing infectious process of uncertain etiology.
   Mediastinal nodes appear unchanged. There is again a small left pleural
   effusion.
   Assessment and Plan
   Mr. [**Known lastname 8799**] is a 57 year old male with newly diagnosed APML
   status-post 7+4 and currently on ATRA therapy, who is transfered to the
   [**Hospital Unit Name 4**] for respiratory distress.
   .
   #) Hypoxic respiratory failure: likely [**1-7**] to infectious process in
   left lung, based on CXR, chest CT and physical exam findings.  Also,
   new PE on diff bc pt was off heparin gtt for 1hr prior to a BM biopsy,
   however unlikely.  Even so, pt being currently treated with heparin
   gtt.  Pulmonary hemorrhage unlikley given no hemoptysis and normal
   platelet count. ATRA syndrome is another possiblity, though less likely
   to produce such uni-lateral findings. PCP is less likely given one
   sided pathology. Viral is less likely given patient has been in the
   hospital and wouldn
t be exposed to usual viral agents like flu, plus
   viral infection would give bilateral patholgoy as well. Bacterial and
   fungal infections are most likely. It is possible that  since patient
   WBC has rebounded, it is mounting an inflammatory response to the
   infections he has in the lungs, namely organizing penumonitis.
   - discuss with radiology regarding CT chest and CXR to try to
   differentiate between infection vs organizing pneumonitis
   - continue broad coverage voriconazole, vancomycin, aztreonam and
   levofloxacin
   - increase vanc dose per ID
   - continue heparin drip for PE
   - keep sending sputum cultures (either sample is contaminated or
   negative so far)
   - consider bronch with BAL to rule out active infections, if no
   infection then can treat with steroids for organizing pneumonitis
   - f/u ID recs
   - sputum sample on [**8-14**] shows atypical cells, likely squamous cell ca ->
   f/u BMT rec re: work-up for that
   - f/u pending micro studies
   .
   #) Tachycadia: Likely secondary to infection, PE, fevers.
   - continue antibiotics as above
   - continue heparin gtt
   - f/u cultures
   - control fever with tylenol
   .
   #) Right ankle joint pain and forefoot swelling and warmth:
   Differential include cellulitis, septic arthritis, gout and DVT.
   LENI
s  ruled out DVT. X-ray ruled our fracture. Joint fluid and stain
   ruled out septic arthritis, gout/pseudogout.  Given that pt is on
   heparin gtt, ankle swelling likely caused by small bleed into joint
   - no work-up necessary at this time
   - pain control with current meds
   .
   #) Acute renal failure: Cr stable after hydration.
   - IVF prn
   - continue to monitor
   .
   #) Anemia: Recent baseline appears to be in mid-20's (21-23).
   - continue to follow trend
   - DIC labs intially unremarkable, will send again if clinical suspicion
   arises
   - guaiac stools
   .
   #) Leukopenia: likely [**1-7**] chemotherapy
   - continue to monitor
   - neutropenic diet and precautions as needed
   .
   #) APML: Status-post 7+4 and ATRA, which was increased to 50 mg on
   [**2109-8-14**]. He is s/p recent bone marrow biopsy which was suggestive of
   remission.
   - Follow up final pathology report
   - Continue ATRA per oncology
   - f/u BMT recs
   .
   #) Intracranial hemorrhage: Stable on last imaging. No CNS changes at
   present.
   - continuing heparin at present given pulmonary emboli, low threshold
   to re-image head.
   .
   #) Nausea, emesis: Patient reports that this has been in intermittent
   complaint. Norovirus was positive earlier in stay.
   - check c. difficile should he have any diarrhea/stool
   - anti-emetics PRN
   ICU Care
   Nutrition: neutropenic diet
   Glycemic Control:
   Lines:
   PICC Line - [**2109-8-15**] 09:17 PM
   Prophylaxis:
   DVT: Heparin IV for PE
   Stress ulcer: On PPI
   VAP:  N/A
   Comments:
   Communication:  Wife: [**Doctor First Name 8206**] [**Telephone/Fax (1) 8207**] (C)/ [**Telephone/Fax (1) 8208**] (H)
   Code status: Full code
   Disposition: transfer back to BMT for further workup of other problems

2109-08-18 12:22:00 Physician Attending Progress Note
Chief Complaint: Respiratory Distress
   Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -No Ambisome started and patient maintained on current Rx.
   -CT Chest completed
   -Patient able to tolerate nasal cannula support for oxygen.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2109-8-18**] 08:00 AM
   Aztreonam - [**2109-8-18**] 08:00 AM
   Voriconazole - [**2109-8-18**] 08:00 AM
   Infusions:
   Heparin Sodium - 2,100 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough, Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2109-8-18**] 12:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.6
C (97.9
   HR: 121 (93 - 125) bpm
   BP: 115/82(87) {57/38(42) - 124/82(88)} mmHg
   RR: 25 (16 - 26) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,989 mL
                                                                  1,006 mL
   PO:
                                                                  2,640 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,349 mL
                                                                    766 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                    900 mL
   Urine:
                                                                  1,300 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,689 mL
                                                                    106 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Dullness : left), (Breath Sounds:
   Bronchial: left sided), some decrease in respiratory effort required
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: Trace, Tender to movement in right ankle
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   289 K/uL
   104 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.2 mEq/L
   17 mg/dL
   102 mEq/L
   134 mEq/L
   22.4 %
   2.2 K/uL
        [image002.jpg]
                             [**2109-8-15**]  10:14 PM
                             [**2109-8-15**]  10:44 PM
                             [**2109-8-16**]  04:52 AM
                             [**2109-8-16**]  07:29 AM
                             [**2109-8-17**]  05:03 AM
                             [**2109-8-18**]  03:55 AM
   WBC
   4.5
   3.1
   2.1
   2.2
   Hct
   25.1
   28
   24.0
   23.5
   22.4
   Plt
   396
   381
   334
   289
   Cr
   1.0
   1.3
   1.1
   1.1
   TCO2
   25
   26
   Glucose
   [**Telephone/Fax (3) 8830**]9
   104
   Other labs: PT / PTT / INR:14.3/59.7/1.2, ALT / AST:41/42, Alk Phos / T
   Bili:217/0.3, Differential-Neuts:84.0 %, Band:0.0 %, Lymph:7.0 %,
   Mono:7.0 %, Eos:0.0 %, Lactic Acid:0.5 mmol/L, Albumin:3.0 g/dL,
   LDH:288 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Imaging: CT Chest-Patient with left upper lobe areas of ground glass,
   he has left sided consolidations noted which are peripherally
   predominant.
   LENI-Negative
   Microbiology: Sputum-GS-GPC in pairs
   Legionella-negative
   BC-[**Date range (1) 8855**]--No growth to date
   Assessment and Plan
   57 yo male with APML now with treatment course complicated by PE,
   alveolar hemorrhage and admitted to the [**Hospital Ward Name 29**] ICU with worsening left
   sided pulmonary infiltrates and hypoxemia.  He has had some improvement
   in oxygenation with current Rx and overall respiratory effort/distress
   has diminshed substantially.
   1)Respirtory Distress-he has minimal change from yesterday
   clinically
his pleuritic chest pain may be worse but is able to be
   controlled.
   Pneumonia-
   -Vori/Aztreonam/Nystatin/Levoflox/Vanco
   -Will adjust medication dosing with increase in Vancomycin dosing
   -Will continue to wean o2 but nasal cannula clearly required
   -Will have to discuss change in anti-fungal coverage with ID and BMT
   team
   Pulmonary Embolus-
   -Continue with Heparin gtt
   -Follow pleuritic chest pain
   2)Ankle Discomfort-
   -Is concern for joint involvement with hemarthrosis.
   -Will follow exam across time
   3)APML-
   -Will continue with Atra
   -Still with some residual disease in marrow
   4)Acute Renal Failure-
   -Some improvement with IVF adminsitration
 IMPAIRED SKIN INTEGRITY
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   PICC Line - [**2109-8-15**] 09:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2109-08-19 06:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2109-8-18**] 12:00 PM
   [**8-18**]:
   - ID recs: increase vanc to 1gm Q8h, goal trough 15-20. if deterioates,
   then may need BAL and switch abx from aztreonam to [**Last Name (un) **] +/- add bactrim
   for GNR coverage.
   - no BMT recs
   - stayed on 5L NC, satting at around 92-93
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Voriconazole - [**2109-8-18**] 08:00 PM
   Vancomycin - [**2109-8-19**] 12:00 AM
   Aztreonam - [**2109-8-19**] 12:00 AM
   Infusions:
   Heparin Sodium - 2,100 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-8-19**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.2
   HR: 118 (93 - 121) bpm
   BP: 114/66(109) {94/57(65) - 126/83(109)} mmHg
   RR: 25 (15 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,510 mL
                                                                    859 mL
   PO:
                                                                    960 mL
                                                                    350 mL
   TF:
   IVF:
                                                                  1,550 mL
                                                                    509 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                    500 mL
   Urine:
                                                                  2,600 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -90 mL
                                                                    359 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General: alert, oriented, uses accessory muscles to breathe
   Cardiac: RRR, S1 + S2, no murmurs or rubs
   Pulmonary: bronchial sounds in the left lung fields, good airway entry.
   Occasional crackles in both lung fields
   Abdomen: +BS, no rebound or guarding, no organomegaly,
   Extremities: Right ankle tenderness on passive movement, 1+ edema on
   right forefoot, right forefoot felt warmer than the left
   Labs / Radiology
   244 K/uL
   7.3 g/dL
   101 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.2 mEq/L
   12 mg/dL
   104 mEq/L
   135 mEq/L
   21.6 %
   1.8 K/uL
        [image002.jpg]
                             [**2109-8-15**]  10:14 PM
                             [**2109-8-15**]  10:44 PM
                             [**2109-8-16**]  04:52 AM
                             [**2109-8-16**]  07:29 AM
                             [**2109-8-17**]  05:03 AM
                             [**2109-8-18**]  03:55 AM
                             [**2109-8-19**]  04:53 AM
   WBC
   4.5
   3.1
   2.1
   2.2
   1.8
   Hct
   25.1
   28
   24.0
   23.5
   22.4
   21.6
   Plt
   396
   381
   334
   289
   244
   Cr
   1.0
   1.3
   1.1
   1.1
   1.0
   TCO2
   25
   26
   Glucose
   [**Telephone/Fax (3) 8830**]9
   104
   101
   Other labs:
   Differential-Neuts:82.0 %, Band:4.0 %, Lymph:6.0 %, Mono:7.0 %, Eos:0.0
   %
   PT / PTT / INR:14.8/56.1/1.3
   ALT / AST:21/36, Alk Phos / T Bili:237 (217)/0.3
   Lactic Acid:0.5 mmol/L, Albumin:2.9 g/dL, LDH:248 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Vanc ([**8-18**]) 12.2
Sputum culutre ([**8-17**]): GRAM STAIN (Final [**2109-8-17**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS.
   No acid-fast. No legionella. Culture pending.
   Blood culture from [**Date range (1) 8855**]: pending, NGTD
   Ankle tap culture: neg
   IMAGING:
   CXR ([**8-18**]): There is slight increase in the left upper lobe opacity
   that might represent developing infectious process. The left lower lung
   appear to be unchanged. The right mid lung opacity is slightly more
   confluent and might represent also a focus of infectious process. There
   is no increase in pleural effusion and there is no pneumothorax. The
   findings overall are unchanged compared to the chest CT from [**8-17**], [**2108**].
   Assessment and Plan
   Mr. [**Known lastname 8799**] is a 57 year old male with newly diagnosed APML
   status-post 7+4 and currently on ATRA therapy, who is transfered to the
   [**Hospital Unit Name 4**] for respiratory distress.
   .
   #) Hypoxic respiratory failure: likely [**1-7**] to infectious process in
   left lung, based on CXR, chest CT and physical exam findings.  Also,
   new PE on diff bc pt was off heparin gtt for 1hr prior to a BM biopsy,
   however unlikely.  Even so, pt being currently treated with heparin
   gtt.  Pulmonary hemorrhage unlikley given no hemoptysis and normal
   platelet count. ATRA syndrome is another possiblity, though less likely
   to produce such uni-lateral findings. PCP is less likely given one
   sided pathology. Viral is less likely given patient has been in the
   hospital and wouldn
t be exposed to usual viral agents like flu, plus
   viral infection would give bilateral patholgoy as well. Bacterial and
   fungal infections are most likely. It is possible that  since patient
   WBC has rebounded, it is mounting an inflammatory response to the
   infections he has in the lungs, namely organizing penumonitis.
   - discuss with radiology regarding CT chest and CXR to try to
   differentiate between infection vs organizing pneumonitis
   - continue broad coverage voriconazole, vancomycin, aztreonam and
   levofloxacin
   - increase vanc dose per ID, goal trough 15-20
   - continue heparin drip for PE
   - keep sending sputum cultures (either sample is contaminated or
   negative so far)
   - consider bronch with BAL to rule out active infections, if no
   infection then can treat with steroids for organizing pneumonitis
   - f/u ID recs
   - sputum sample on [**8-14**] shows atypical cells, likely squamous cell ca ->
   f/u BMT rec re: work-up for that
   - f/u pending micro studies
   .
   #) Tachycadia: Likely secondary to infection, PE, fevers.
   - continue antibiotics as
   above
   - continue heparin gtt
   - f/u cultures
   - control fever with tylenol
   .
   #) Right ankle joint pain and forefoot swelling and warmth:
   Differential include cellulitis, septic arthritis, gout and DVT.
   LENI
s  ruled out DVT. X-ray ruled our fracture. Joint fluid and stain
   ruled out septic arthritis, gout/pseudogout.  Given that pt is on
   heparin gtt, ankle swelling likely caused by small bleed into joint
   - no work-up necessary at this time
   - pain control with current meds
   .
   #) Acute renal failure: Cr stable after hydration.
   - IVF prn
   - continue to monitor
   .
   #) Anemia: Recent baseline appears to be in mid-20's (21-23).
   - continue to follow trend
   - DIC labs intially unremarkable, will send again if clinical suspicion
   arises
   - guaiac stools
   .
   #) Leukopenia: likely [**1-7**] chemotherapy
   - continue to monitor
   - neutropenic diet and precautions as needed
   .
   #) APML: Status-post 7+4 and ATRA, which was increased to 50 mg on
   [**2109-8-14**]. He is s/p recent bone marrow biopsy which was suggestive of
   remission.
   - Follow up final pathology report
   - Continue ATRA per oncology
   - f/u BMT recs
   .
   #) Intracranial hemorrhage: Stable on last imaging. No CNS changes at
   present.
   - continuing heparin at present given pulmonary emboli, low threshold
   to re-image head.
   .
   #) Nausea, emesis: Patient reports that this has been in intermittent
   complaint. Norovirus was positive earlier in stay.
   - check c. difficile should he have any diarrhea/stool
   - anti-emetics PRN
   ICU Care
   Nutrition: neutropenic diet
   Glycemic Control:
   Lines:
   PICC Line - [**2109-8-15**] 09:17 PM
   Prophylaxis:
   DVT: Heparin IV for PE
   Stress ulcer: On PPI
   VAP:
   Comments:
   Communication:  Wife: [**Doctor First Name 8206**] [**Telephone/Fax (1) 8207**] (C)/ [**Telephone/Fax (1) 8208**] (H)
   Code status: Full code
   Disposition: transfer back to BMT for further workup of other problems

2109-08-19 12:48:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   Respiratory Distress
   Pulmonary Infiltrates/Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2109-8-18**] 12:00 PM
   -Patient with continued 5 liter/min O2 requirement
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Aztreonam - [**2109-8-19**] 08:00 AM
   Vancomycin - [**2109-8-19**] 08:00 AM
   Voriconazole - [**2109-8-19**] 08:00 AM
   Infusions:
   Heparin Sodium - 2,100 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough, Tachypnea
   Flowsheet Data as of  [**2109-8-19**] 12:40 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 112 (98 - 121) bpm
   BP: 126/77(88) {99/64(72) - 127/83(109)} mmHg
   RR: 20 (15 - 26) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,510 mL
                                                                  1,915 mL
   PO:
                                                                    960 mL
                                                                    830 mL
   TF:
   IVF:
                                                                  1,550 mL
                                                                  1,085 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                    500 mL
   Urine:
                                                                  2,600 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -90 mL
                                                                  1,415 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   244 K/uL
   101 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.2 mEq/L
   12 mg/dL
   104 mEq/L
   135 mEq/L
   21.6 %
   1.8 K/uL
        [image002.jpg]
                             [**2109-8-15**]  10:14 PM
                             [**2109-8-15**]  10:44 PM
                             [**2109-8-16**]  04:52 AM
                             [**2109-8-16**]  07:29 AM
                             [**2109-8-17**]  05:03 AM
                             [**2109-8-18**]  03:55 AM
                             [**2109-8-19**]  04:53 AM
   WBC
   4.5
   3.1
   2.1
   2.2
   1.8
   Hct
   25.1
   28
   24.0
   23.5
   22.4
   21.6
   Plt
   396
   381
   334
   289
   244
   Cr
   1.0
   1.3
   1.1
   1.1
   1.0
   TCO2
   25
   26
   Glucose
   [**Telephone/Fax (3) 8830**]9
   104
   101
   Other labs: PT / PTT / INR:14.8/56.1/1.3, ALT / AST:21/36, Alk Phos / T
   Bili:237/0.3, Differential-Neuts:82.0 %, Band:4.0 %, Lymph:6.0 %,
   Mono:7.0 %, Eos:0.0 %, Lactic Acid:0.5 mmol/L, Albumin:2.9 g/dL,
   LDH:248 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR-Persistence of left sided consolidations with suggestion
   of limited clearing at left base.
   Assessment and Plan
   57 yo male with APML and now with hospital course complicated by
   pulmonary embolism, alveolar hemorrhage and now with evidence of
   progressive left sided pulmonary infiltrates and persistent hypoxemia
   despite broad spectrum antibiotic therapy.  This remains most likely a
   bacterial pathogen and would expect improvement with current broad
   spectrum antibiotics, however, improvement has been slow to date.  For
   reasons that might contribute to persistent failure--alternative
   fungal, PCP may be most likely infectious sources.  An organizing
   pneumonitis is certainly possible in this setting but would not want to
   consider empiric steroid Rx in the setting of more likely ongoing
   bacterial infection.  Have discussed at length the possible role  or
   bronchoscopy and BAL which would be pursued if intubated but given
   concern for low yield in the setting of ongoing antibiotics and
   inability to inform as to invasive fungal infection or organizing
   pneumonitis would not intubate specifically for the procedure.
   1)Hypoxemia/Respiratory Compromise-Continue to treat with broad
   spectrum ABX as has shown some improvement in RR and tolerance for wean
   of O2
   -Vanco/Levo/Aztreonam/Vori
   -Will need to get OOB and to chair and consider ambulation which he is
   requesting today
   2)Ankle Pain--Considered hemarthrosis
   -Improved
 IMPAIRED SKIN INTEGRITY
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   PICC Line - [**2109-8-15**] 09:17 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Discussed extensively with patient and he
   expressed some enthusiasm for subtle improvement but does acknowledge
   risk for worsening
   Code status: Full code
   Disposition : To Floor if able to tolerate OOB to chair
   Total time spent: 35